US06353111B1
A solution of triphenylphosphine (720 mg, 2.75 mmol) in methylene chloride (25 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (490 mg, 2.75 mmol). The reaction mixture was stirred at 0° C. For 30 min and then treated with a solution of (E)-3-cyclohexyl-2-(4-(methanesulfonyl)-3-nitro-phenyl)-acrylic acid (485 mg, 1.37 mmol) in methylene chloride (5 mL). The reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (412 mg, 4.12 mmol), and the resulting suspension was stirred for 2 d at 25° C. The reaction mixture was then concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (70 mL) and a 1N aqueous hydrochloric acid solution (50 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×50 mL). The combined organic extracts were successively washed with a 1N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), and a saturated aqueous sodium chloride solution (1×100 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 5/1 to 3/2 hexanes/ethyl acetate) afforded the (E)-3-cyclohexyl-2-(4-methanesulfonyl-3-nitro-phenyl)-N-thiazol-2-yl-acrylamide (122 mg, 20%) as an amorphous solid: EI-HRMS m/e calcd for C19H21N3O5S2 (M+) 435.0923, found 435.0923.

reactant | triphenylphosphine | 2.75 mmol, 720 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.75 mmol, 490 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-3-cyclohexyl-2-(4-(methanesulfonyl)-3-nitro-phenyl)-acrylic acid | 1.37 mmol, 485 mg | C1(CCCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C16H19NO6S
reactant | 2-aminothiazole | 4.12 mmol, 412 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-cyclohexyl-2-(4-methanesulfonyl-3-nitro-phenyl)-N-thiazol-2-yl-acrylamide | 122 mg, 20% | C1(CCCCC1)/C=C(/C(=O)NC=1SC=CN1)\C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C19H21N3O5S2
